data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][P+:21](OCCC#N)(OC1CC(OC1C)N2C=C(C(=O)NC2=O)C)OC3CC(OC3COC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)N7C=C(C(=O)NC7=O)C.CC(C)[NH:10]C(C)C.C1=NN=N[N-]1>>[H:20][NH+:10](C(C)C)C(C)C.CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)O[P:21](OCCC#N)OC3CC(OC3COC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)N7C=C(C(=O)NC7=O)C.C1=NN=N[N-]1 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CCOC(=O)C1(COC2=C1C(=O)CC(C2)(C)C)[OH:10].CC1=CC=CC=C1>>[H:20][OH+:10]C1(COC2=C1C(=O)CC(C2)(C)C)C(=O)OCC.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=CC=CC=C1 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCOC(=O)CCC(=[O:10])C>>[H:20][O+:10]=C(C)CCC(=O)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][NH2+:21]C=C.[OH2:10]>>[H:20][OH2+:10].C=C[NH2:21] 10=20;20,21=21
[B-]([O+:21]=[CH:20]C)(F)(F)F.C[OH:10]>>[B-]([O:21][CH:20](C)[OH+:10]C)(F)(F)F 10=20;20,21=21
CCCCC[C:11]#[C:10]CC(CCC)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CCCCC[C+:11]=[C:10]1CC(C[N:21]([CH2:20]1)CC2=CC=CC=C2)CCC 10,11=10,20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH2:20]C[C:10]2=[CH:11][CH:12]=[C:13](C=C2)[O:14]C.C(=O)O>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C[O+:14]=[C:13]1C=C[C:10]2(C[CH2:20]2)[CH:11]=[CH:12]1.C(=O)O 10,11=10,20;20,21=21;12,13=11,12;14=13
[H:20][O+:21](CCO)C(CC(=O)OCC)(CC(=O)OCC)O[B-](F)(F)F.C(CO)[OH:10].CCOCC>>[H:20][OH+:10]CCO.[B-](OC(CC(=O)OCC)(CC(=O)OCC)[O:21]CCO)(F)(F)F.CCOCC 10=20;20,21=21
C[CH:20]([O-:10])[S:21](=O)(=O)O>>C[CH:20]=[O:10].O[S-:21](=O)=O 10=20;20,21=21
C[O:10][C:20]12C(CCO1)(C3=C([OH+:21]2)C=CC=C3)C4=CC=CC=C4.CO.[Br-]>>C[O+:10]=[C:20]1C(CCO1)(C2=CC=CC=C2)C3=C(C=CC=C3)[OH:21].CO.[Br-] 10=20;20,21=21
[H:20][C:21](CCC)(C(C1=CC=C(C=C1)[N+](=O)[O-])O)[C:22](=[N+:23]2CCCC2C3=NN=NN3)C4=C(C=CC(=C4)Br)O.[OH2:10].C(=O)(C(F)(F)F)[O-]>>[H:20][OH2+:10].CCC[C:21](=[C:22](C1=C(C=CC(=C1)Br)O)[N:23]2CCCC2C3=NN=NN3)C(C4=CC=C(C=C4)[N+](=O)[O-])O.C(=O)(C(F)(F)F)[O-] 10=20;22,23=23;20,21=21,22
[CH:10](=[OH+:11])N>>[CH+:10](N)[OH:11] 10,11=11
C=C[CH:20]1C[Br+:21]1.[Br-:10]>>C=C[CH:20](C[Br:21])[Br:10] 10=20;20,21=21
CCO[C:20](=[O:21])CCCC[CH:10]=[C:11]([O-:12])OCC>>CCO[C:11](=[O:12])[CH:10]1CCCC[C:20]1([O-:21])OCC 10,11=10,20;20,21=21;12=11
C1CC[C:20](CC1)([N:10]2CCCC2)[OH:21].C1CCNC1.C1=CC=CC=C1>>C1CC[C:20](=[N+:10]2CCCC2)CC1.[OH-:21].C1CCNC1.C1=CC=CC=C1 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(C#N)([O-:10])Cl>>[H:20][O:10]C(C)(C#N)Cl.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21]1CCOC1CCC(=O)C.OS(=O)(=O)[O-:10]>>CC(=O)CCC1OCC[O:21]1.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C(CCO)CC(=[O:10])O>>[H:20][O+:10]=C(CCCCO)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH2:21][C+:22]1C2CC(CC1(C(C=C2)C)C)C(=C)C.C1=CC=[N:10]C=C1.CS(=O)(=O)[O-]>>[H:20][N+:10]1=CC=CC=C1.CC1C=CC2CC(CC1([C:22]2=[CH2:21])C)C(=C)C.CS(=O)(=O)[O-] 10=20;20,21=21,22
[H:10][C:11](C)(C)[CH+:20]CC(C(C)C)Cl>>[H:10][CH:20](CC(C(C)C)Cl)[C+:11](C)C 10,11=10,20
CCCCOCC1C(C=C([CH:20]=[O+:21]1)CC2=C(C=CC(=C2)C)[OH:10])OCCCC.[B-](OCCCC)(F)(F)F.CC(=O)O>>CCCCOCC1C(C=C2CC3=C(C=CC(=C3)C)[OH+:10][CH:20]2[O:21]1)OCCCC.[B-](OCCCC)(F)(F)F.CC(=O)O 10=20;20,21=21
[H:20][CH:21]1C(CC(O[C:22]1=[O:23])CCO[Si](C)(C)C(C)(C)C)OC(=O)C.C[O-:10].[Li+]>>[H:20][O:10]C.CC(=O)OC1CC(O[C:22](=[CH:21]1)[O-:23])CCO[Si](C)(C)C(C)(C)C.[Li+] 10=20;22,23=23;20,21=21,22
[H:20][O+:21]=C(CC(=O)C)O.[OH2:10]>>[H:20][OH2+:10].CC(=O)CC(=[O:21])O 10=20;20,21=21
CC(=O)OC1=C(C(=CC2=C1C3CC4C3C(O2)(CC4)C)O)C5CC(=O)[O:21][C:20](O5)(C)[O-:10].[K+]>>CC(=O)OC1=C(C(=CC2=C1C3CC4C3C(O2)(CC4)C)O)C(CC(=O)[O-:21])O[C:20](=[O:10])C.[K+] 10=20;20,21=21
C[CH+:20]C.C[C:11]1=[CH:10]OC=C1>>C[C+:11]1C=CO[CH:10]1[CH:20](C)C 10,11=10,20
[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)C(F)(F)F.[N+:20](=O)=[O:21]>>C1=CC2=CC(=CC=C2[CH:10]([CH+:11]1)[N+:20](=O)[O-:21])C(F)(F)F 10,11=10,20;20,21=21
[H:20][OH+:21][Al-](CC(C)C)(CC(C)C)OC(C=CC1=CC=CC=C1)C2=CC=CC=C2.[OH2:10]>>[H:20][OH2+:10].CC(C)C[Al-](CC(C)C)([OH:21])OC(C=CC1=CC=CC=C1)C2=CC=CC=C2 10=20;20,21=21
[H:20][O+:21](CC(=CC=C(C=O)SCC[Si](C)(C)C)SCC[Si](C)(C)C)I1(C2=C(C=CC=C2)C(=O)O1)(OC(=O)C)OC(=O)C.CC(=O)[O-:10].CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>[H:20][O:10]C(=O)C.CC(=O)OI1(C2=C(C=CC=C2)C(=O)O1)([O:21]CC(=CC=C(C=O)SCC[Si](C)(C)C)SCC[Si](C)(C)C)OC(=O)C.CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10=20;20,21=21
[H:20][C:21](C[N+](C)(C)C)([CH:22]=[O:23])C(C)OC(C)[O-:10]>>[H:20][O:10]C(C)OC(C)[C:21](=[CH:22][O-:23])C[N+](C)(C)C 10=20;22,23=23;20,21=21,22
CC(=O)O[Si-:10](C)(C)(C(C)(C)C)[Cl:11]>>CC(=O)O[Si:10](C)(C)C(C)(C)C.[Cl-:11] 10,11=11
[H:20][O+:21]1CCCCC1(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1(CCCC[O:21]1)C 10=20;20,21=21
C1C[C:20]2(CCC1C(C3=CC=CC=C3)(C4=CC=CC=C4)O)[OH+:21]CC[O:10]2>>C1C[C:20](=[O+:10]CC[OH:21])CCC1C(C2=CC=CC=C2)(C3=CC=CC=C3)O 10=20;20,21=21
C[C-:10](C)C.CC(=O)O[Si:20](C)(C)C>>CC(=O)O[Si-:20](C)(C)(C)[C:10](C)(C)C 10=20,
[H:20][CH:21]1CC(CC(=O)[C:23](=[CH:22]1)[C:24](=[O:25])OC)CCCCC.C[O-:10].[HH].CC(=O)C=C.[Na+]>>[H:20][O:10]C.CCCCCC1C[CH:21]=[CH:22][C:23](=[C:24]([O-:25])OC)C(=O)C1.[HH].CC(=O)C=C.[Na+] 10=20;24,25=25;20,21=21,22;22,23=23,24
